US08252931B2
To 75 mg (0.133 mmol) of title F compound, 3-[{4-[2-cyclopentyl-1-([1,3,4]thiadiazol-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-(2-methoxy-ethyl)-amino]-propionic acid tert-butyl ester is added 2 mL of DCM and 0.5 mL of trifluoroacetic acid. The reaction mixture is stirred at ambient temperature for one hour. The reaction is evaporated to a brownish resin and subsequently dissolved in ether and decanted from some insoluble material. The organic layer is evaporated to a light orange resin which is dissolved in 2 mL methanol in a 50 mL round bottom flask. Aqueous potassium hydroxide (0.265 mL of 0.5094 M potassium hydroxide solution) is added and stirred for 30 min. The methanol is evaporated, 8 mL of water added, and the mixture lyophilized to afford 3-[{4-[2-cyclopentyl-1-([1,3,4]thiadiazol-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-(2-methoxy-ethyl)-amino]-propionic acid as a light orange-brown solid: 1H NMR (400 MHz, DMSO-d6) δ 1.1 (m, 1H), 1.4 (m, 1H), 1.6 (m, 2H), 1.7 (ddd, J=13.1, 6.9, 6.7 Hz, 2H), 2.1 (ddd, J=11.2, 8.2, 7.8, 2H), 3.2 (s, 2H), 3.2 (m, 3H), 3.7 (t, J=7.5 Hz, 1H), 7.56 (d, J=8.3, 2H), 7.63 (d, J=8.3 Hz, 2H), 8.58 (s, 1H); L/MS 511 (M+1), 509 (M−1). EC50 in primary enzyme assay 50 μM.

reactant | 3-[{4-[2-cyclopentyl-1-([1,3,4]thiadiazol-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-(2-methoxy-ethyl)-amino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(CCOC)S(=O)(=O)C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC=NN1)=O)=O | C26H38N4O6S2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[{4-[2-cyclopentyl-1-([1,3,4]thiadiazol-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-(2-methoxy-ethyl)-amino]-propionic acid | C1(CCCC1)CC(C(NC=1SC=NN1)=O)C1=CC=C(C=C1)S(=O)(=O)N(CCC(=O)O)CCOC | C22H30N4O6S2
